US08003806B2
3-{6-[(2-Fluoro-6-iodobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
Using the procedure of Preparation 21, the title compound (48 mg) was prepared from ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 2-fluoro-6-iodobenzoic acid. [LCMS (Method A, Mobile Phase I) RT=4.33 min, MH+ 530].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | 2-fluoro-6-iodobenzoic acid | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
product | 3-{6-[(2-Fluoro-6-iodobenzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | 48 mg | FC1=C(C(=O)NC=2C=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C2)C(=CC=C1)I | C23H17FIN3O3
